US05977101
c) 2-Aminomethylindole
LAH (42 mL, 1M solution in THF) was added dropwise through a syringe to a solution of 2-cyanoindole (2.0 g, 14.1 mmol) in anhydrous THF (20 mL) with cooling, and the resulting solution was stirred at RT under argon for 5 h. H2O was added dropwise with cooling to destroy excess LAH, and the colorless precipitate was removed by filtration and washed with THF. The filtrate was dried (K2CO3) and concentrated to afford the title compound (2.11 g, quantitative) as a yellow solid: 1H NMR (400 MHz, DMSO-d6) δ 7.41 (d, 1H), 7.29 (d, 1H), 6.97 (t, 1H), 6.91 (t, 1H), 6.20 (s, 1H), 3.82 (s, 2H), 2. 18 (br, 1H).

reactant | LAH | 1M, 42 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 2-cyanoindole | 14.1 mmol, 2.0 g | C(#N)C=1NC2=CC=CC=C2C1 | C9H6N2
reactant | H2O | O | H2O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 2-Aminomethylindole | 2.11 g | NCC=1NC2=CC=CC=C2C1 | C9H10N2
